US05889021
Preparation of 3-propanoyl-4-(2-methylphenylamino)-8-(3-propylsulfinylpropoxy)quinoline.
3-Propanoyl-4-(2-methylphenylamino)-8-(3-propylthiopropoxy)quinoline (200 mg, 0.47 mmol) was dissolved in 5 ml methylene chloride. A solution of sodium bicarbonate (80 mg, 0.95 mmol) in 5 ml water was added. The mixture was cooled to 2°-4° C. A solution of 70% m-CPBA (115mg, 0.47 mmol) in 5 ml methylene chloride was added dropwise during 10 min. The temperature was allowed to rise and the mixture was stirred for 30 min at room temperature. The methylene chloride layer was separated and washed with water. The organic layer was then dried over Na2SO4 and evaporated. The crude product was purified by column chromatography (methylene chloride: ethanol 95:5). 160 mg (77%) of the title compound was obtained.

reactant | 3-Propanoyl-4-(2-methylphenylamino)-8-(3-propylthiopropoxy)quinoline | 0.47 mmol, 200 mg | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCSCCC | C25H30N2O2S
reactant | sodium bicarbonate | 0.95 mmol, 80 mg | C([O-])(O)=O.[Na+]
reactant | m-CPBA | 0.47 mmol, 115mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3-propanoyl-4-(2-methylphenylamino)-8-(3-propylsulfinylpropoxy)quinoline | 160 mg, 77% | C(CC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OCCCS(=O)CCC | C25H30N2O3S
